US04377695
8-(5-Chloro-2-oxo-benzoxazolin-3-yl)-caprylic acid
The product is produced as described in example 22 from 10.9 g. of 8-(5-chloro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester and 1.6 g. of NaOH. Eluant in chromatographic purification: chloroform.

reactant | 8-(5-chloro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=C(C=C2)Cl)=O)=O | C16H20ClNO4
reactant | NaOH | [OH-].[Na+]
product | 8-(5-Chloro-2-oxo-benzoxazolin-3-yl)-caprylic acid | ClC=1C=CC2=C(N(C(O2)=O)CCCCCCCC(=O)O)C1 | C15H18ClNO4
